US05366993
4-Hydroxy-2-oxo-2,5-dihydro-furan-3-carboxylic acid 2-cyclododecyl-ethylamide
To a dry flask containing 40 mL of chloroform was added 1.87 g (18.7 mmol) of tetronic acid, 2.29 g (18.7 mmol) of 4-N,N-dimethylaminopyridine, 2.6 mL (18.7 mmol) of triethylamine followed by 4.4 g (18.7 mmol) of 2-cyclododecylethyl isocyanate. The reaction mixture was allowed to stir overnight at room temperature, after which time a small amount of starting materials was still evident by TLC. The reaction mixture was quenched with 1N HCl, the layers separated, the organic fraction dried over MgSO4, filtered, and stripped of solvent. The residue was flash chromatographed using acidic silica gel eluting with 25% EtOAc/hexane to give a yellow solid. M.P. 135°-137° C. Spectral data follow: 1H NMR (DMSO-d6) δ8.05 (bs, 1H), 4.6 (s, 2H), 4.2 (bs, 10 H), 3.25 (t, 2H), 2.5 (s, 3H), 1.2-1.4 (bm, >20 H); IR (KBr) 3340, 2920, 2850 (C--H), 1750, 1650 cm-1 (C=O);

reactant | tetronic acid | 18.7 mmol, 1.87 g | C1C(=O)COC1=O | C4H4O3
reactant | triethylamine | 18.7 mmol, 2.6 mL | C(C)N(CC)CC | C6H15N
reactant | 2-cyclododecylethyl isocyanate | 18.7 mmol, 4.4 g | C1(CCCCCCCCCCC1)CCN=C=O | C15H27NO
reactant | KBr | [K+].[Br-]
solvent | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-Hydroxy-2-oxo-2,5-dihydro-furan-3-carboxylic acid 2-cyclododecyl-ethylamide | C1(CCCCCCCCCCC1)CCNC(=O)C=1C(OCC1O)=O | C19H31NO4
